US07910592B2
Palladium(II) acetate (46.1 mg, 0.0685 mmol), DPPF (38 mg, 0.0685 mmol), K2CO3 (284 mg, 2.06 mmol) and Et3N (95 uL, 0.685 mmol) were added to a solution of benzyl 5-amino-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate (270 mg, 0.685 mmol) in MeCN (5 mL) and MeOH (2.5 mL). The reaction mixture was purged with N2, the flask was capped and a CO balloon was attached to it. After bubbling CO gas into the solution through a needle attached to the balloon for 5 min, the mixture was heated under a CO balloon at 70° C. for 4 h. The mixture was diluted with EtOAc (50 mL), filtered through Celite, then washed with water (3×10 mL), brine (1×), dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to provide 2-benzyl 5-methyl 6-amino-1,3-dihydro-2H-isoindole-2,5-dicarboxylate LCMS calc.=327.1; found=326.8 (M+H)+. 1H NMR (500 MHz, CDCl3): δ 7.80-7.75 (2 s, 1H); 7.45-7.35 (m, 5H); 6.61-6.55 (2 s, 1H); 5.79 (br s, 2H); 5.25 (s, 2H); 4.68 (t, J=13.5 Hz, 4H); 3.91-3.90 (2 s, 3H).

reactant | K2CO3 | 2.06 mmol, 284 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 0.685 mmol, 95 uL | CCN(CC)CC | C6H15N
reactant | benzyl 5-amino-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate | 0.685 mmol, 270 mg | NC=1C=C2CN(CC2=CC1I)C(=O)OCC1=CC=CC=C1 | C16H15IN2O2
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | MeOH | 2.5 mL | CO | CH4O
catalyst | Palladium(II) acetate | 0.0685 mmol, 46.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | DPPF | 0.0685 mmol, 38 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-benzyl 5-methyl 6-amino-1,3-dihydro-2H-isoindole-2,5-dicarboxylate | NC1=C(C=C2CN(CC2=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C18H18N2O4
